US04486586
Diphenylmethyl 7-[(Z)-2-(2-t-Butoxycarbonyl-2-propoxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]-3-triphenylphosphoniomethyl-3-cephem-4-carboxylate Iodide (VIII-4')
A mixture of diphenylmethyl 7-[(Z)-2-(2-t-butoxycarbonyl-2-propoxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]-3-iodomethyl-3-cephem-4-carboxylate (VII-4', 5.3 g, 5 mmoles) and triphenylphosphine (2.6 g, 10 mmoles) in benzene (100 ml) was stirred at room temperature for 1 hour and diluted with diisopropyl ether. The resulting precipitate was collected by filtration to yield 6.0 g (91%) of the title compound VIII-4'.

reactant | diphenylmethyl 7-[(Z)-2-(2-t-butoxycarbonyl-2-propoxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]-3-iodomethyl-3-cephem-4-carboxylate | C(C)(C)(C)OC(=O)C(C)(C)O\N=C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CI)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C53H50IN5O7S2
reactant | triphenylphosphine | 10 mmoles, 2.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | Diphenylmethyl 7-[(Z)-2-(2-t-Butoxycarbonyl-2-propoxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]-3-triphenylphosphoniomethyl-3-cephem-4-carboxylate Iodide | 6.0 g, 91% | [I-].C(C)(C)(C)OC(=O)C(C)(C)O\N=C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C71H64N5O7PS2.HI/c1-69(2,3)82-67(80)70(4,5)83-75-59(58-48-86-68(72-58)74-71(52-34-18-8-19-35-52,53-36-20-9-21-37-53)54-38-22-10-23-39-54)63(77)73-60-64(78)76-61(66(79)81-62(49-30-14-6-15-31-49)50-32-16-7-17-33-50)51(47-85-65(60)76)46-84(55-40-24-11-25-41-55,56-42-26-12-27-43-56)57-44-28-13-29-45-57;/h6-45,48,60,62,65H,46-47H2,1-5H3,(H-,72,73,74,77);1H/b75-59-;/t60?,65-;/m1./s1
